US06043337
A solution of 1,16-dibromo-5,5,6,6,7,7,8,8,9,9,10,10,11,11,12,12-hexadecafluorohexadecane (20.16 g), 4'-hydroxy-4-cyanobiphenyl (2.05 g), potassium carbonate (2.07 g) and acetone (30 mL) is refluxed for 8 hrs. The acetone is removed under reduced pressure and the residue diluted with water and extracted with ethyl ether. The extracts are washed with water and brine, dried (MgSO4), concentrated, and purified by chromatography to give 4'-(16-bromo-5,5,6,6,7,7,8,8,9,9,10,10,11,11,12,12-hexadecafluorohexadecyloxy)-4-cyanobiphenyl.

reactant | 1,16-dibromo-5,5,6,6,7,7,8,8,9,9,10,10,11,11,12,12-hexadecafluorohexadecane | 20.16 g | BrCCCCC(C(C(C(C(C(C(C(CCCCBr)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C16H16Br2F16
reactant | 4'-hydroxy-4-cyanobiphenyl | 2.05 g | OC1=CC=C(C=C1)C1=CC=C(C=C1)C#N | C13H9NO
reactant | potassium carbonate | 2.07 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 30 mL | CC(=O)C | C3H6O
product | 4'-(16-bromo-5,5,6,6,7,7,8,8,9,9,10,10,11,11,12,12-hexadecafluorohexadecyloxy)-4-cyanobiphenyl | BrCCCCC(C(C(C(C(C(C(C(CCCCOC1=CC=C(C=C1)C1=CC=C(C=C1)C#N)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C29H24BrF16NO
